US07514460B2
Intermediate 9: 4-chloro-6-methoxy-7-(3-pyrrolidin-1-yl-propoxy)-quinazoline
The compound was synthesised according to GP 4 from 4-chloro-7-hydroxy-6-methoxy-quinazoline and 3-Pyrrolidin-1-yl-propan-1-ol. LC/ESI-MS: m/z=322 [M+H].

reactant | 4-chloro-7-hydroxy-6-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | 3-Pyrrolidin-1-yl-propan-1-ol | N1(CCCC1)CCCO | C7H15NO
product | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-yl-propoxy)-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
